US04279921
22.2 g (0.1 mol) of dichloromaleic acid dichloride were introduced slowly into a mixture of 20.2 g (0.2 mol) of triethylamine and 19.4 g (0.2 mol) of furfurylamine in 200 ml of acetone at room temperature, while stirring vigorously. The reaction mixture was poured into 100 ml of water and the product which precipitated was filtered off and dried. 29.0 g of dichloromaleic acid bis-furfurylamide of melting point 149° C. were obtained. The yield was 85% of theory.

reactant | dichloromaleic acid dichloride | 0.1 mol, 22.2 g | Cl/C(=C(/C(=O)Cl)\Cl)/C(=O)Cl | C4Cl4O2
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | furfurylamine | 0.2 mol, 19.4 g | C(C1=CC=CO1)N | C5H7NO
reactant | water | 100 ml | O | H2O
reactant | acetone | 200 ml | CC(=O)C | C3H6O
product | dichloromaleic acid bis-furfurylamide | 29.0 g, yield was 85% | C(C1=CC=CO1)N(C(\C(=C(/C(=O)O)\Cl)\Cl)=O)CC1=CC=CO1 | C14H11Cl2NO5
